US07256178B2
(5) (8E,12E,14E)-3,16,21-trihydroxy-6,10,12,16,20-pentamethyl-7-((4-methylpiperazin-1-yl)carbonyl)oxy-18,19-epoxytricosa-8,12,14-trien-11-olide (compound 18)
(8E,12E,14E)-3,16,21-tris-(1-ethoxyethoxy)-6,10,12,16,20-pentamethyl-7-((4-methylpiperazin-1-yl)carbonyl)oxy-18,19-epoxytricosa-8,12,14-trien-11-olide (25.1 mg, 30.0 limol) was dissolved in a 1:1 mixed solution of tetrahydrofuran and 2-methyl-1-propanol (1 mL). Pyridinium p-toluenesulfonate (23.7 mg, 94.3 μmol) was added to the reaction mixture at room temperature. The reaction mixture was stirred at the same temperature for 24.5 hours, and then pyridinium p-toluenesulfonate (8.7 mg, 34.6 μmol) was further added to the reaction mixture. The reaction mixture was stirred for 4.5 hours. The reaction mixture was diluted with ethyl acetate (30 mL), and the organic layer was washed with a saturated aqueous solution of sodium hydrogencarbonate (6 mL) and purified water (6 mL) twice, and with brine (6 mL). The resulting organic layer was dried over anhydrous sodium sulfate, filtered and concentrated. The resulting concentrate was purified by thin-layer chromatography (Fuji Silysia NH Silica gel plate; chloroform:methanol=40:1) to obtain the title compound (12.2 mg, 19.6 μmol, 65.3%) as a colorless oil.

reactant | (8E,12E,14E)-3,16,21-tris-(1-ethoxyethoxy)-6,10,12,16,20-pentamethyl-7-((4-methylpiperazin-1-yl)carbonyl)oxy-18,19-epoxytricosa-8,12,14-trien-11-olide | 25.1 mg | C(C)OC(C)OC1CC(=O)OC(C(/C=C/C(C(CC1)C)OC(=O)N1CCN(CC1)C)C)\C(=C\C=C\C(CC1C(C(C(CC)OC(C)OCC)C)O1)(C)OC(C)OCC)\C | C46H80N2O11
reactant | Pyridinium p-toluenesulfonate | 94.3 μmol, 23.7 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | pyridinium p-toluenesulfonate | 34.6 μmol, 8.7 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | 2-methyl-1-propanol | 1 mL | CC(CO)C | C4H10O
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | (8E,12E,14E)-3,16,21-trihydroxy-6,10,12,16,20-pentamethyl-7-((4-methylpiperazin-1-yl)carbonyl)oxy-18,19-epoxytricosa-8,12,14-trien-11-olide | 19.6 μmol, 12.2 mg, 65.3% | OC1CC(=O)OC(C(/C=C/C(C(CC1)C)OC(=O)N1CCN(CC1)C)C)\C(=C\C=C\C(CC1C(C(C(CC)O)C)O1)(C)O)\C | C34H56N2O8
